US05051446
In accordance with Example 10 above 2-(3-amino-2-hydroxypropoxy)benzonitrile was prepared. 1.9 g of this compound were dissolved in 30 ml of methanol and 1.16 g of ethyl 3-oxopropanoate were added, wereby ethyl N-[3-(2-cyanophenoxy)-2-hydroxypropyl]-3-iminopropanoate was obtained. Thesolution was cooled to 0° C. and at this temperature 3 g of sodium borohydride were added little by little, whereby the imino compound was reduced. The temperature was then allowed to rise to ambient temperature and after 1 hour 100 ml of H2O were added and the total mixture was extracted with ethyl acetate. The ethyl acetate phase was dried over MgSO4 and filtered. The residue was transformed into its hydrochloride. In this way ethyl N-[3-(2-cyanophenoxy)-2-hydroxypropyl]-3-aminopropanoate hydrochloride wasobtained. Melting point 120° C.

reactant | 2-(3-amino-2-hydroxypropoxy)benzonitrile | NCC(COC1=C(C#N)C=CC=C1)O | C10H12N2O2
reactant | ethyl 3-oxopropanoate | 1.16 g | O=CCC(=O)OCC | C5H8O3
solvent | methanol | 30 ml | CO | CH4O
product | ethyl N-[3-(2-cyanophenoxy)-2-hydroxypropyl]-3-iminopropanoate | C(#N)C1=C(OCC(CN=CCC(=O)OCC)O)C=CC=C1 | C15H18N2O4
